* d:\Learning\20231117-AnalogIC\AnalogIC\Chapter05C_01.fig.asc
M1 VQ Vin1 VP 0 NMOS
M2 Vout Vin2 VP 0 NMOS
VDD N001 0 4
VinCM1 VinCM 0 2
Vin1 Vin1 VinCM 0
B§VinCM2 N003 0 V=V(VinCM)
B§Vin2 Vin2 N003 V=-(V(Vin1)-V(VinCM))
M3 VQ VQ N001 N001 PMOS
M4 Vout VQ N001 N001 PMOS
M5 VP N002 0 NC_01 NMOS
Vb N002 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\liyuxuan\AppData\Local\LTspice\lib\cmp\standard.mos
.backanno
.end
